US08865682B2
To a stirred solution of 6-fluoro-N-[(5E)-5-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]nicotinamide (75 mg, 0.20 mmol) in DMF (3 mL) was added 1-(2-hydroxyethyl)piperazine (70 mg, 0.54 mmol). The reaction mixture was heated in 66° C. bath for 30 minutes, cooled to room temperature, and diluted with ethyl acetate (80 mL). The ethyl acetate solution was washed with brine (4×20 mL), dried over Na2SO4, and concentrated to give the crude product. Purification of the crude product by silica gel chromatography with a gradient of methanol in chloroform (5-20%) gave N-[(5E)-5-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]-6-[4-(2-hydroxyethyl)piperazin-1-yl]nicotinamide as a yellow solid. Yield: 42 mg, 43%.

reactant | 6-fluoro-N-[(5E)-5-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]nicotinamide | 0.20 mmol, 75 mg | FC1=NC=C(C(=O)NC=2C(O/C(/C2)=C\2/C(NC3=CC(=CC=C23)F)=O)(C)C)C=C1 | C20H15F2N3O3
reactant | 1-(2-hydroxyethyl)piperazine | 0.54 mmol, 70 mg | OCCN1CCNCC1 | C6H14N2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | N-[(5E)-5-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]-6-[4-(2-hydroxyethyl)piperazin-1-yl]nicotinamide | FC1=CC=C2/C(/C(NC2=C1)=O)=C\1/C=C(C(O1)(C)C)NC(C1=CN=C(C=C1)N1CCN(CC1)CCO)=O | C26H28FN5O4
